US04043872
EXAMPLE III Carboxymethoxyacetyl Thyroxine Methyl Ester (DGMA)
To a solution of 1.65g of the methyl ester of thyroxine hydrochloride in 80ml of dry THF and 30ml of chloroform in a flask protected from light was injected 300μl of triethylamine while the mixture was agitated. Diglycolic anhydride (255mg, 0.0022 mole) was then added and the mixture stirred overnight. The solution was then washed 3 times with water, dried over sodium sulphate and the volatiles removed in vacuo. The residue was purified on a 30g Sephadex LH-20 column, using a solution of 20% methanol in dichloromethane as eluent. The clear fractions were collected, the solvent removed and the residue precipitated from methanol with water, yielding 1.53g, 84 percent.

reactant | thyroxine hydrochloride | Cl.N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O
reactant | triethylamine | 300μl | C(C)N(CC)CC | C6H15N
reactant | Diglycolic anhydride | 0.0022 mole, 255mg | C1(COCC(=O)O1)=O | C4H4O4
solvent | THF | 80ml | C1CCOC1 | C4H8O
solvent | chloroform | 30ml | C(Cl)(Cl)Cl | CHCl3
product | Carboxymethoxyacetyl Thyroxine Methyl Ester | COC([C@@H](NC(COCC(=O)O)=O)CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)=O | C20H17I4NO8
